US06331538B1
7-(3-Amino-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-3-hydroxy-1H-quinazoline-2,4-dione
A solution of [1-(3-benzyloxy-1-cyclopropyl-6-fluoro-2,4-dioxo-1,2,3,4-tetrahydro-quinazolin-7-yl)pyrrolidin-3-yl]-carbamic acid tert-butyl ester (Example G-3, 0.10 g, 0.22 mmol) in trifluoroacetic acid (TFA, 3.0 mL) was reacted with a 1.0 M solution of boron tris(trifluoroacetate) (1.1 mL, 1.1 mmol) in TFA and allowed to stir for 3 hours. The mixture was then concentrated and the residue rediluted in methanol and concentrated. This process was repeated two times. The residue was then triturated from diethyl ether and filtered to provide 0.075 g of the title compound as a solid, mp 244-245° C. (dec.).

reactant | [1-(3-benzyloxy-1-cyclopropyl-6-fluoro-2,4-dioxo-1,2,3,4-tetrahydro-quinazolin-7-yl)pyrrolidin-3-yl]-carbamic acid tert-butyl ester | 0.22 mmol, 0.10 g | C(C)(C)(C)OC(NC1CN(CC1)C1=C(C=C2C(N(C(N(C2=C1)C1CC1)=O)OCC1=CC=CC=C1)=O)F)=O | C27H31FN4O5
reactant | boron tris(trifluoroacetate) | 1.1 mmol, 1.1 mL | FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.FC(C(=O)[O-])(F)F.[B+3]
solvent | trifluoroacetic acid | 3.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(3-Amino-pyrrolidin-1-yl)-1-cyclopropyl-6-fluoro-3-hydroxy-1H-quinazoline-2,4-dione | 0.075 g | NC1CN(CC1)C1=C(C=C2C(N(C(N(C2=C1)C1CC1)=O)O)=O)F | C15H17FN4O3
